Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
neck pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with old C5-C6 fracture, who 
presents with C2-C3 fracture and L 11th rib fracture.  Around 4 
p.m. on ___, Mr. ___ was in a domestic dispute while 
intoxicated with ethanol.  He was tackled by police and was 
thrown forward, striking his face on the ground.  He was 
reportedly struck in the chest and abdomen.  He was taken to 
___ and had CT scans of face, head, chest, 
abdomen, and pelvis.  CT scans showed postsurgical changes s/p 
C5-C6 ACDF, C2-C3 acute avulsion fracture of anterior inferior 
endplates, and L 11th rib fracture.  He was transferred to ___ 
in police custody for further trauma evaluation.

Currently, Mr. ___ endorses pain in his neck and in his 
chest.  He notes that he has pain with respiration. 
 
Past Medical History:
PMH:
- COPD
- DVT s/p IVC filter
- polysubstance use
- alcohol use
- anxiety
- depression
- ?CVA

PSH:
- IVC filter
- C5-C6 ACDF
- ear surgery
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission PHYSICAL EXAM:
O: T:97.3  BP: 106/73    HR:75    R:16       O2Sats:94% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils:  ___  EOMs intact
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF    IP    Q  H     AT    ___    G
R     5    5     5     5    5     5    5  5      5      5    5
L     5    5     5     5    5     5    5  5      5      5    5

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Reflexes: B T Br Pa Ac
Right     ___  2  2
Left      ___  2  2

Propioception intact
Toes downgoing bilaterally
Rectal exam normal sphincter control

Discharge Physical Exam:
VS: 98.1, 120/84, 88, 18, 97 RA 
Gen: A&O x3
HEENT: in hard collar
Pulm: Faint wheezes auscultated bilaterally. TTP over left lower 
rib cage
CV: HRR
Abd: soft NT/ND
Ext: no edema

Physical exam on discharge:  ___:

vital signs:  t=98.5, hr=62, bp=134/85, rr=18, 97% room air

GENERAL:  resting in bed, ___ J collar in place

CV:  ns1, s2
LUNGS:  clear
ABDOMEN:  hypoactive BS, soft, non-tender
EXT:  + dp bil., no calf tenderness bil., muscle st upper ext. 
right +5/+5, left +3/+5, shoulder shrug +5/+5
NEURO:  alert and oriented x 3, speech clear, no tremors
 
Pertinent Results:
___ 01:38AM BLOOD WBC-10.4*# RBC-4.22* Hgb-12.9* Hct-40.1 
MCV-95 MCH-30.6 MCHC-32.2 RDW-14.2 RDWSD-49.5* Plt ___
___ 01:38AM BLOOD Glucose-79 UreaN-10 Creat-0.8 Na-143 
K-3.8 Cl-105 HCO3-23 AnGap-15

Imaging:

CT chest/abdomen/pelvis OSH:
1. Acute minimally displaced posterior L 11th rib fracture
2. Right thyroid lobe 1.1 cm hypodense nodule

CT C-spine OSH
1. acute avulsion fractures of the anterior inferior endplates 
of C2 and C3
2. Post-surgical changes from C5-C6 ACDF without evidence of 
complication

CT Face OSH
No acute facial findings

CT Head OSH
No acute intracranial abnormality.

 
Brief Hospital Course:
___ man with old C5-C6 fracture now s/p altercation 
causing fall with headstrike who p/w acute C2-C3 fracture and 
left 11th rib fracture. The patient was neurologically intact 
and hemodynamically stable. Neurosurgery was consulted and 
recommended non-operative management with hard collar on at all 
times and follow-up in 1 month for repeat imaging.

The patient was admitted for pain control, respiratory 
monitoring, pulmonary toilet, and instructions in incentive 
spirometry. His vital signs  remained stable. During this 
hospitalization, the patient ambulated early and frequently, was 
adherent with respiratory toilet and incentive spirometry, and 
actively participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. He was wearing his ___ collar.  The 
patient was tolerating a regular diet, ambulating, voiding 
without assistance, and pain was well controlled.  The patient 
was discharged without services. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
Paxil 40 mg tablet oral
1 tablet(s) Once Daily

Klonopin 2 mg tablet oral
1 tablet(s) Three times daily
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H 
after 72 hours, may change to PRN dosing, not to exceed 4 gm  
2.  Docusate Sodium 100 mg PO BID 
hold for loose stool 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*10 Capsule Refills:*0 
3.  Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate  
4.  Polyethylene Glycol 17 g PO DAILY  
5.  TraMADol 50 mg PO Q4H:PRN Pain - Severe 
hold for increased sedation, resp. rate <8  
6.  PARoxetine 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non-displaced anterior/inferior endplates fractures of C2 and C3
Left 11th rib fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after an altercation. You were found 
on imaging to have non-displaced cervical fractures of C2 and 
C3. Neurosurgery was consulted who recommended a hard collar to 
be worn at all times and follow-up in 1 month for repeat 
imaging. 

You are now medically clear for discharge. 

You are being discharged with the following recommendations:

* Your injury caused a rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

cervical collar at all times, may wash neck daily with 
stabilization of neck after collar removed

 
Followup Instructions:
___